US06388146B1
First, 150 ml of ethanol containing 17.84 g of 4-(trans-4-pentylcyclohexyl)phenylboronic acid dissolved therein, 150 ml of benzene containing 15.0 g of 4-bromo-2-fluoro-1-iodobenzene dissolved therein, 49.8 ml of a sodium carbonate aqueous solution with a concentration of 2.0 mol/l, and 1.44 g of tetrakis(triphenylphosphine)palladium(0) were put in an argon-replaced 500 ml flask, and stirred under reflux for 37 hours. After the reaction, water and ether were added to the reaction solution for extraction. The resultant ether layer was washed with a saturated brine and dried with sodium sulfate. The solvent was then distilled off. The residue was purified by silica gel column chromatography (eluent:hexane) and recrystallized from hexane, to obtain 13.6 g (Y: 67.8%) of 4-bromo-2-fluoro-4′-(trans-4-pentylcyclohexyl)biphenyl. The purity of the resultant compound was 99.5% as measured by GC.

reactant | ethanol | 150 ml, 17.84 g | C(C)O | C2H6O
reactant | 4-(trans-4-pentylcyclohexyl)phenylboronic acid | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)B(O)O | C17H27BO2
reactant | 4-bromo-2-fluoro-1-iodobenzene | BrC1=CC(=C(C=C1)I)F | C6H3BrFI
reactant | sodium carbonate | 49.8 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.44 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
solvent | benzene | 150 ml, 15.0 g | C1=CC=CC=C1 | C6H6
product | 4-bromo-2-fluoro-4′-(trans-4-pentylcyclohexyl)biphenyl | 13.6 g, 67.8% | BrC1=CC(=C(C=C1)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCCCC)F | C23H28BrF
